US07553837B2
Production of 4-(±)-(5-nitro-2,4,6,7-tetramethyldihydrobenzofuran-2-ylmethyl)-1-(4-imidazol-1-ylphenyl)piperazine
0.7 g of 1-(4-imidazol-1-ylphenyl)-piperazine and 0.7 g of 2,4,6,7-tetramethyl-5-nitrodihydrobenzofuran-2-aldehyde were dissolved in 20 ml of methylene chloride and 1 ml of acetic acid as a catalyst was added, followed by stirring at room temperature for 30 minutes. To the resulting reaction solution, 1.2 g of sodium triacetoxyborohydride was added, followed by stirring at room temperature for 30 minutes. After the completion of the reaction, the reaction solution was poured into water, neutralized with an aqueous saturated sodium hydrogen carbonate solution and then extracted with chloroform. The organic layer was washed with saturated saline and then dried over anhydrous magnesium sulfate. After removing magnesium sulfate by filtration and concentrating under reduced pressure, 1.3 g of the objective product was obtained.

reactant | 1-(4-imidazol-1-ylphenyl)-piperazine | 0.7 g | N1(C=NC=C1)C1=CC=C(C=C1)N1CCNCC1 | C13H16N4
reactant | 2,4,6,7-tetramethyl-5-nitrodihydrobenzofuran-2-aldehyde | 0.7 g | CC1(OC=2C(C1)C(C(=C(C2C)C)[N+](=O)[O-])C)C=O | C13H17NO4
reactant | sodium triacetoxyborohydride | 1.2 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
catalyst | acetic acid | 1 ml | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
product | 4-(±)-(5-nitro-2,4,6,7-tetramethyldihydrobenzofuran-2-ylmethyl)-1-(4-imidazol-1-ylphenyl)piperazine | 1.3 g | [N+](=O)([O-])C1=C(C(=C2C(CC(O2)(C)CN2CCN(CC2)C2=CC=C(C=C2)N2C=NC=C2)C1C)C)C | C26H33N5O3
